US07022725B2
A mixture of 3-(2-aminoethyl)indole hydrochloride (0.46 g), triethylamine (0.6 ml) and N,N-dimethylformamide (20 ml) was stirred at room temperature for 1 hr. To the obtained mixture was added 3-(5-phenyl-4-isoxazolyl)propionic acid (0.42 g), 1-hydroxy-1H-1,2,3-benzotriazole hydrate (0.37 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.45 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with dilute hydrochloric acid, saturated aqueous sodium hydrogencarbonate and then saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and N-[2-(3-indolyl)ethyl]-3-(5-phenyl-4-isoxazolyl)propionamide (0.63 g, yield 91%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). NMR (CDCl3) δ: 2.32–2.44 (2H, m), 2.88–3.04 (4H, m), 3.54–3.66 (2H, m), 5.45 (1H, br s), 6.93 (1H, d, J=2.2 Hz), 7.04–7.28 (2H, m), 7.32–7.62 (5H, m), 7.64–7.74 (2H, m), 8.05 (1H, br s), 8.17 (1H, s).

reactant | 3-(2-aminoethyl)indole hydrochloride | 0.46 g | Cl.NCCC1=CNC2=CC=CC=C12
reactant | 3-(5-phenyl-4-isoxazolyl)propionic acid | 0.42 g | C1(=CC=CC=C1)C1=C(C=NO1)CCC(=O)O | C12H11NO3
reactant | 1-hydroxy-1H-1,2,3-benzotriazole hydrate | 0.37 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.45 g | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | N-[2-(3-indolyl)ethyl]-3-(5-phenyl-4-isoxazolyl)propionamide | 0.63 g, yield 91% | N1C=C(C2=CC=CC=C12)CCNC(CCC=1C=NOC1C1=CC=CC=C1)=O | C22H21N3O2
